US04968681
Ethyl 2-(4-fluoro-3-phenoxy-benzylidene)-4-methyl-3-oxopentanoate
2.8 ml (29 mmol of piperidine and 1.7 ml (29 mmol) of acetic acid are added to a solution of 79 g (0.5 mol) of ethyl 4-methyl-3-oxo-pentanecarboxylate (prepared from methyl isopropyl ketone analogously to the process of S. B. Soloway and F. B. La Forge, J. Am. Chem. Soc. 69, 2677 (1947)) and 108 g (0.5 mol) of 4-fluoro-3-phenoxy-benzaldehyde in 300 ml of isopropanol and stirred overnight at RT. The mixture is then concentrated, the residue is taken up in 500 ml of ether, washed twice with water and once with saturated sodium chloride solution, dried over sodium sulphate and the solvent removed. The residue is distilled under high vacuum until the last fraction passes over at 185° C. and 0.3 mbar. All distillates (44 g) are discarded. The distillation residue contains the product: brownish oil (144.7 g, 81%), which is reacted further without purification.

reactant | piperidine | 29 mmol | N1CCCCC1 | C5H11N
reactant | acetic acid | 29 mmol, 1.7 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 4-methyl-3-oxo-pentanecarboxylate | 0.5 mol, 79 g | CC(C(CCC(=O)OCC)=O)C | C9H16O3
reactant | methyl isopropyl ketone | C(C)(C)C(=O)C | C5H10O
reactant | 4-fluoro-3-phenoxy-benzaldehyde | 0.5 mol, 108 g | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | Ethyl 2-(4-fluoro-3-phenoxy-benzylidene)-4-methyl-3-oxopentanoate | FC1=C(C=C(C=C(C(=O)OCC)C(C(C)C)=O)C=C1)OC1=CC=CC=C1 | C21H21FO4
